US07696195B2
6l) (R)-1-carboxy-2-(8-methyl-2,3-dihydro-1,4-benzodioxin-6-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
151 mg (6.3 mmol) LiOH in 50 mL water were metered into a solution of 2.2 g (4.2 mmol) (R)-1-(methoxycarbonyl-2-(8-methyl-2,3-dihydro-1,4-benzodioxin-6-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 50 mL THF and the reaction mixture was stirred for 2 h at RT. After the end of the reaction the mixture was evaporated to dryness i.vac. The residue was combined with 100 mL water and 100 mL EtOAc, the aqueous phase was separated off, acidified with 2 M HCl, extracted with 200 mL EtOAc and the organic phase was dried. After the desiccant and solvent had been eliminated the residue was evaporated to dryness i.vac. and reacted further without purification.

reactant | LiOH | 6.3 mmol, 151 mg | [Li+].[OH-]
reactant | methoxycarbonyl-2-(8-methyl-2,3-dihydro-1,4-benzodioxin-6-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)OCC(C1=CC3=C(OCCO3)C(=C1)C)C(=O)OC)C=CC=C2 | C28H33N3O7
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | (R)-1-carboxy-2-(8-methyl-2,3-dihydro-1,4-benzodioxin-6-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(OCCO3)C(=C1)C)C(=O)O)C=CC=C2 | C27H31N3O7
